US09169270B2
(±)-4-(2-Carboxymethoxy-5-chloro-phenyl)-2-propyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (C25H25N2O5ClS, MW=500.12)
To a solution under N2 of (±)-2-bromo-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (50 mg, 0.09 mmol, 1.00 eq.) and 0.5M propylzinc bromide in THF (0.36 mL, 0.18 mmol, 2.00 eq.) in THF (10 mL), tetrakis(triphenylphosphine) palladium (0) (5.1 mg, 4 μmol, 0.05 eq) was added. The mixture was stirred at 50° C. for 18 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was taken up in DMF, filtered, and purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo. The resulting ester was dissolved in DMF (0.5 mL), 1M aq. NaOH soln. (0.5 mL) was added. The resulting solution was stirred at r.t. for 18 hours. The solution was neutralized with formic acid (1 mL), filtered, and then purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the desired acid as a white solid.

reactant | (±)-2-bromo-4-(5-chloro-2-ethoxycarbonylmethoxy-phenyl)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | 0.09 mmol, 50 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)Br)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C24H22BrClN2O5S
reactant | propylzinc bromide | 0.5M | [Br-].C(CC)[Zn+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 4 μmol, 5.1 mg, 0.05 eq | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 0.18 mmol, 0.36 mL, 2.00 eq. | C1CCOC1 | C4H8O
product | (±)-4-(2-Carboxymethoxy-5-chloro-phenyl)-2-propyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)CCC)C2=C(C=CC(=C2)Cl)OCC(=O)O | C25H25ClN2O5S
